US07935709B2
Step B: tert-Butyl 4-(2-(aminomethyl)-4-bromophenylamino)piperidine-1-carboxylate
A solution of tert-butyl 4-(4-bromo-2-cyanophenylamino)piperidine-1-carboxylate (1.00 g, 3 mmol) in THF (10 ml, 123 mmol) under argon was added borane-tetrahydrofuran complex (8 ml, 8 mmol) and stirred at RT for 20 h. The reaction was cooled to 0° C. and quenched with MeOH. The mixture was further diluted with EtOAc and washed with saturated aqueous NaHCO3 and brine, then dried (MgSO4). Evaporation gave a relatively pure crop of the desired product, tert-butyl 4-(2-(aminomethyl)-4-bromophenylamino)piperidine-1-carboxylate, which was used directly in the next step without further purification. MS m/e 385.2 (M+H)+.

reactant | tert-butyl 4-(4-bromo-2-cyanophenylamino)piperidine-1-carboxylate | 3 mmol, 1.00 g | BrC1=CC(=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C#N | C17H22BrN3O2
reactant | THF | 123 mmol, 10 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(2-(aminomethyl)-4-bromophenylamino)piperidine-1-carboxylate | NCC1=C(C=CC(=C1)Br)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26BrN3O2
